US05346881
In a flask were placed 40 g (0.31 mole) of 1,2-dihydroxy-4-fluorobenzene, 36.25 g (0.625 mole) of acetone, and 400 mL of methylene chloride. To this solution was added 133 g (0.937 mole) of phosphorus pentoxide in portions during a five minute period. This mixture was stirred at ambient temperature for approximately 16 hours after which the methylene chloride was decanted from the solid material in the flask. Ice was added to the flask, and the solid residue was dissolved in water and extracted with methylene chloride. The phases were separated, and the organic phase was combined with the methylene chloride solution that had been decanted from the reaction mixture. This solution was washed in succession with a 5% aqueous solution of sodium hydroxide and then with water. After being dried over anhydrous magnesium sulfate and filtered, the organic solution was evaporated under reduced pressure, leaving 29.3 g of 2,2-dimethyl-5-fluoro-1,3-benzodioxole as a residue. The NMR spectrum was consistent with the proposed structure.

reactant | 1,2-dihydroxy-4-fluorobenzene | 0.31 mole, 40 g | OC1=C(C=C(C=C1)F)O | C6H5FO2
reactant | acetone | 0.625 mole, 36.25 g | CC(=O)C | C3H6O
reactant | phosphorus pentoxide | 0.937 mole, 133 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-5-fluoro-1,3-benzodioxole | 29.3 g | CC1(OC2=C(O1)C=CC(=C2)F)C | C9H9FO2
